US05569783
nitrating acetanilide using a mixture of nitric acid and sulfuric acid to produce 4-nitroacetanilide and nitrating further using a mixture of nitric acid and sulfuric acid to produce compound VI;

reactant | acetanilide | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-nitroacetanilide | CC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H8N2O3
